US06900231B2
7. 2-(3-Amino-2-fluoro-6-nitrophenyl)ethanol (Yokomoto, M, W., et al. EP 0 470 578 A1 (1991))
A solution of 2-{3-[(tert-butyl)amino]-2-fluoro-6-nitrophenyl}ethanol (3.9 g, 15 mmol), as prepared in the preceding step, in concentrated HCl (40 mL) was refluxed for 2 hours. After cooling to room temperature, the mixture was extracted with ethyl acetate (6×50 mL). The extracts were combined, washed with saturated NaHCO3 (2 times) and brine, dried over Na2SO4, and concentrated to give the crude product as a solid. The solid was triturated in hexane, filtered, and dried in high vacuum to produce the title compound (2.8 g, 93% yield) as a yellow solid. 1H-NMR (400 MHz, CD3OD) δ 7.80 (dd, J=9.1, 1.5 Hz, 1H), 6.70 (t, J=9.0 Hz, 1H), 3.77 (t, J=7.1 Hz, 2H), 3.26 (dt, J=7.3, 2.8 Hz, 2).

reactant | 2-{3-[(tert-butyl)amino]-2-fluoro-6-nitrophenyl}ethanol | 15 mmol, 3.9 g | C(C)(C)(C)NC=1C(=C(C(=CC1)[N+](=O)[O-])CCO)F | C12H17FN2O3
solvent | HCl | 40 mL | Cl | ClH
product | 2-(3-Amino-2-fluoro-6-nitrophenyl)ethanol | 2.8 g, 93% yield | NC=1C(=C(C(=CC1)[N+](=O)[O-])CCO)F | C8H9FN2O3
